US07528262B2
{1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}methanol
(1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indole-2-carboxylic acid ethyl ester (0.5 g, 1.27 mmol) was dissolved in THF (10 mL) and added dropwise to lithium aluminum hydride (1.53 mL, 1 M solution in THF, 1.53 mmol) in THF (10 mL). The reaction was stirred at 60° C. for 2 hours. Water (0.3 mL), 2 N NaOH (0.3 mL), and water (0.9 mL) were added, and the solvent was evaporated. The resulting residue was diluted with water and extracted with dichloromethane. The dichloromethane extracts were dried over MgSO4 and concentrated to give a white solid, 0.36 g. A small amount of the product was purified by semi-prep LC-MS to give 3.5 mg of pure desired product. LC-MS (C22H26N2O2 calc'd 350) m/z 351 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.65-7.61 (m, 1H), 7.35 (d, J=8.7 Hz, 2H), 7.16-7.08 (m, 3H), 7.01 (d, J=8.7 Hz, 2H), 6.65 (s, 1H), 4.64 (s, 2H), 4.10 (t, J=6 Hz, 2H), 2.93-2.86 (m, 6H), 2.21-2.12 (m, 2H), 1.94-1.90 (m, 4H).

reactant | 1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indole-2-carboxylic acid ethyl ester | 1.27 mmol, 0.5 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)OCCCN1CCCC1 | C24H28N2O3
reactant | lithium aluminum hydride | 1.53 mmol, 1 M, 1.53 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.3 mL | O | H2O
reactant | NaOH | 2 N, 0.3 mL | [OH-].[Na+]
reactant | water | 0.9 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indol-2-yl}methanol | 3.5 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)CO | C22H26N2O2
